US07205433B2
L-alanine (1.50 g, 16.84 mmol) and 2,4-dimethylbenzenesulfonic acid (2,4-DMBS) (3.76 g, 20.20 mmol) were added to ethanol (15 ml), and the mixture was heated overnight at 70 EC to perform esterification. To complete the esterification reaction, the mixture was heated to 90 EC, and ethanol (200 ml) was added over 3.5 hours, while distilling away almost the same amount of ethanol. Thereafter, the solvent was evaporated under reduced pressure, and the residue was dried under reduced pressure. The obtained oily residue was cooled in a refrigerator to allow partial crystallization. Diethyl ether (2.5 ml) and ethyl acetate (17.5 ml) were added, and the residue was dissolved almost entirely at 50° C. The mixture was stirred at room temperature to give a slurry. This slurry was cooled overnight in a refrigerator, and the crystals were separated and dried to give 3.00 g of L-alanine ethyl ester 2,4-dimethylbenzenesulfonate (L-Ala-OEt 2,4-DMBS salt) dry crystals (L-Ala-OEt 2,4-DMBS salt content 99.6%, 9.84 mmol, yield 58.4%).

reactant | L-alanine | 16.84 mmol, 1.50 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 2,4-dimethylbenzenesulfonic acid | 20.20 mmol, 3.76 g | CC1=C(C=CC(=C1)C)S(=O)(=O)O | C8H10O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | L-alanine ethyl ester 2,4-dimethylbenzenesulfonate | 3.00 g, yield 58.4% | CC1=C(C=CC(=C1)C)S(=O)(=O)O.C(C)OC([C@@H](N)C)=O | InChI=1S/C8H10O3S.C5H11NO2/c1-6-3-4-8(7(2)5-6)12(9,10)11;1-3-8-5(7)4(2)6/h3-5H,1-2H3,(H,9,10,11);4H,3,6H2,1-2H3/t;4-/m.0/s1
